US06759429B2
A suspension of N,N-dimethyl-1H-imidazole-1-sulfonamide (2.02 g) in THF (50 mL) was cooled to −78° C., and thereto was added dropwise n-BuLi (4.77 mL, 2.66 M hexane solution), and the mixture was stirred for 30 minutes. To the mixture was added p-tolyl benzaldehyde (2.08 g), and the mixture was warmed to room temperature over a period of 1 hour, and then stirred for 16 hours. The mixture was extracted with aqueous hydrochloric acid solution, washed with Et2O, and basified with an aqueous NaOH solution. This solution was extracted with Et2O, and the organic layer was dried and filtered. The solvent was evaporated under reduced pressure to give 2-[hydroxy(4-methylphenyl)methyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | N,N-dimethyl-1H-imidazole-1-sulfonamide | 2.02 g | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
reactant | n-BuLi | 2.66 M, 4.77 mL | [Li]CCCC
reactant | p-tolyl benzaldehyde | 2.08 g | C1(=C(C=CC=C1)C1=CC=C(C=O)C=C1)C | C14H12O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-[hydroxy(4-methylphenyl)methyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide | OC(C=1N(C=CN1)S(=O)(=O)N(C)C)C1=CC=C(C=C1)C | C13H17N3O3S
